US08791255B2
The product is prepared according to the procedure described in Example 5, using 100 mg of sodium 2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]propanoate and 195 mg of 4-fluoro-3-methoxyaniline in place of the 2,4-difluoroaniline. 30 mg of N-(4-fluoro-3-methoxyphenyl)-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]propanamide are obtained in the form of a white solid, the characteristics of which are the following:

reactant | sodium 2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]propanoate | 100 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)C(C(=O)[O-])C.[Na+]
reactant | 4-fluoro-3-methoxyaniline | 195 mg | FC1=C(C=C(N)C=C1)OC | C7H8FNO
product | N-(4-fluoro-3-methoxyphenyl)-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]propanamide | 30 mg | FC1=C(C=C(C=C1)NC(C(C)C=1NC(C=C(N1)N1CCOCC1)=O)=O)OC | C18H21FN4O4
